US04808567
Synthesis of 3,3-bis[2-(p-pyrrolidinophenyl)-2-(p-methoxyphenyl)ethenyl]-4,5,6,7-tetrachlorophthalide.
Into a mixture of 25 ml of acetic anhydride and 75 ml of o-dichlorobenzene, 14.0 g of 1-(p-methoxyphenyl)-1-(p-pyrrolidinophenyl)ethylene (m.p. 115°-118° C.) and 21.5 g of tetrachlorophthalic anhydride were added and the mixture was stirred for 6 hours at 120° C. Into 200 ml of water the reaction mixture was added and after making the mixture alkaline by adding sodium hydroxide, the alkaline reaction mixture was extracted with 70 ml of toluene. The solid matter obtained by evaporating toluene from the extract was recrystallized from acetone while purifying with activated carbon to obtain 17.6 g of pale yellow crystals melting at 159° to 161° C. (Yield: 85.2%)

reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(p-methoxyphenyl)-1-(p-pyrrolidinophenyl)ethylene | 14.0 g | COC1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N1CCCC1 | C19H21NO
reactant | tetrachlorophthalic anhydride | 21.5 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | o-dichlorobenzene | 75 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3,3-bis[2-(p-pyrrolidinophenyl)-2-(p-methoxyphenyl)ethenyl]-4,5,6,7-tetrachlorophthalide | 17.6 g, Yield: 85.2% | N1(CCCC1)C1=CC=C(C=C1)C(=CC1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C=C(C1=CC=C(C=C1)N1CCCC1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C46H40Cl4N2O4
